US08044213B2
To a mixture of 3.2 g (6.96 mmole) of 2-(6-benzyloxy-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (I.25c) and 50 mL of dichloromethane at 0 degrees was added, dropwise, 5.86 mL (56 mmole) of boron trifluoride-dimethylsulfide complex. The mixture was stirred at ambient temperature for 1 hour and then 50 mL of water was added. The mixture was stirred vigorously for 1 hour. The precipitate was collected by filtration to give 2.6 g of 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.25d) as an off-white solid.

reactant | 2-(6-benzyloxy-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 6.96 mmole, 3.2 g | C(C1=CC=CC=C1)OC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1 | C24H17ClN4O2S
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 2.6 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)O | C17H11ClN4O2S
